US07223769B2
In 4 ml of tetrahydrofuran was suspended 0.10 g of sodium hydride (60% in oil), to which 0.4 ml of a solution containing 0.17 g of 2-butanol was added dropwise at 0° C., followed by stirring for 10 minutes. To this was added dropwise 0.4 ml of a solution containing 0.30 g of 4,6-dichloropyrimidine in tetrahydrofuran, followed by stirring at the same temperature for 3 hours. To this was added dropwise 0.4 ml of a solution containing 0.18 g of 2-butyn-1-ol in tetrahydrofuran and further added 0.10 g of sodium hydride (60% in oil), followed by stirring at room temperature for 7 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.31 g of 4-(sec-butyloxy)-6-(2-butynyloxy)pyrimidine (the present compound (23)).

reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | 4,6-dichloropyrimidine | 0.30 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 2-butyn-1-ol | 0.18 g | C(C#CC)O | C4H6O
reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 2-butanol | 0.17 g | CC(CC)O | C4H10O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 4-(sec-butyloxy)-6-(2-butynyloxy)pyrimidine | 0.31 g | C(C)(CC)OC1=NC=NC(=C1)OCC#CC | C12H16N2O2
